US06699887B2
A solution containing 400 mg of [5-hydroxy-1-(4-methoxybenzyl)-3-methyl-1H-pyrazol-4-yl]-phenyl-methanone in 5 ml of phosphorus oxychloride was heated at 40° C. for 30 min. The mixture was poured into iced saturated sodium hydrogen carbonate and extracted with dichioromethane three times. The combined extracts were washed with brine then dried over anhydrous magnesium sulphate, filtered and evaporated. The residue was purified by flash chromatography on silica gel using diethyl ether/hexane (1:3) for the elution to give 170 mg of [5-chloro-1-(4-methoxybenzyl)-3-methyl-1H-pyrazol-4-yl]-phenyl-methanone as a yellow gum. Mass spectrum (ES) m/z 341[M+H]+.

reactant | [5-hydroxy-1-(4-methoxybenzyl)-3-methyl-1H-pyrazol-4-yl]-phenyl-methanone | 400 mg | OC1=C(C(=NN1CC1=CC=C(C=C1)OC)C)C(=O)C1=CC=CC=C1 | C19H18N2O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | phosphorus oxychloride | 5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | [5-chloro-1-(4-methoxybenzyl)-3-methyl-1H-pyrazol-4-yl]-phenyl-methanone | 170 mg | ClC1=C(C(=NN1CC1=CC=C(C=C1)OC)C)C(=O)C1=CC=CC=C1 | C19H17ClN2O2
